US07705025B2
[4-(5-Ethanesulfonyl-thiophen-2-yl)-2-fluoro-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to General Procedure A using [2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone (458 mg, 1.1 mmol) and 2-Bromo-5-ethanesulfonyl-thiophene (255 mg, 1.0 mmol) to give 165 mg (35% yield). MS (ES+) 465.2 (M+H)+

reactant | [2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 1.1 mmol, 458 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H34BFN2O3
reactant | 2-Bromo-5-ethanesulfonyl-thiophene | 1.0 mmol, 255 mg | BrC=1SC(=CC1)S(=O)(=O)CC | C6H7BrO2S2
product | [4-(5-Ethanesulfonyl-thiophen-2-yl)-2-fluoro-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 35% yield | C(C)S(=O)(=O)C1=CC=C(S1)C1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C)F | C23H29FN2O3S2
